US08133911B2
The acid was obtained following the same procedure described for (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoic acid and starting from methyl (2R)-2-[4-(carbamothioylamino)phenyl]propanoate (2.0 g, 8.40 mmol) and chloroacetaldehyde (50 wt. % in H2O, 0.54 ml, 8.40 mmol). The following acid hydrolysis afforded the pure (2R)-2-{4-[(1,3-thiazol-2-yl)amino]phenyl}propanoic acid (1.47 g, 5.62 mmol) as pale yellow oil (55%). 1H-NMR (CDCl3): δ 8.30 (bs, 1H, NH), 8.10 (d, 1H, J=2.5 Hz), 7.50 (d, 1H, J=2.5 Hz) 7.40 (d, 2H, J=7 Hz), 7.20 (d, 2H, J=7 Hz), 3.75 (q, 1H, J=7 Hz), 1.50 (d, 3H, J=7 Hz),

reactant | (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoic acid | FC(C=1N=C(SC1)NC1=CC=C(C=C1)[C@H](C(=O)O)C)(F)F | C13H11F3N2O2S
reactant | methyl (2R)-2-[4-(carbamothioylamino)phenyl]propanoate | 8.40 mmol, 2.0 g | C(N)(=S)NC1=CC=C(C=C1)[C@H](C(=O)OC)C | C11H14N2O2S
reactant | chloroacetaldehyde | 8.40 mmol, 0.54 ml | ClCC=O | C2H3ClO
product | (2R)-2-{4-[(1,3-thiazol-2-yl)amino]phenyl}propanoic acid | 5.62 mmol, 1.47 g, 55% | S1C(=NC=C1)NC1=CC=C(C=C1)[C@H](C(=O)O)C | C12H12N2O2S
